US08202856B2
4-{1-(2-fluorophenyl)-4-[3-(4-{[(3S)-3-fluoropyrrolidin-1-yl]methyl}phenyl)-1,2,4-oxadiazol-5-yl]-1H-1,2,3-triazol-5-yl}pyridine
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (200 mg; 0.48 mmol) and (R)-3-fluoropyrrolidine (121 mg; 0.97 mmol) to give Example 167 as a white solid. 1H NMR: (CDCl3, 400 MHz) 8.72 (2H, dd, J=4.6, 1.6 Hz), 8.05 (2H, d, J=8.0 Hz), 7.63-7.52 (2H, m), 7.47 (2H, d, J=8.0 Hz), 7.40-7.33 (3H, m), 7.19 (1H, t, J=9.1 Hz), 5.25-5.11 (1H, m), 3.72 (2H, s), 2.92-2.69 (3H, m), 2.53-2.45 (1H, m), 2.24-1.99 (2H, m). LC/MS (Method C): 486 (M+HPLC (Method I) Rt 14.98 min (Purity: 95.7%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | (R)-3-fluoropyrrolidine | 0.97 mmol, 121 mg | F[C@H]1CNCC1 | C4H8FN
product | 4-{1-(2-fluorophenyl)-4-[3-(4-{[(3S)-3-fluoropyrrolidin-1-yl]methyl}phenyl)-1,2,4-oxadiazol-5-yl]-1H-1,2,3-triazol-5-yl}pyridine | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=C1)CN1C[C@H](CC1)F | C26H21F2N7O
